US09024018B2
8-(5-Phenyl-1,3,4-oxadiazol-2-yl)-3-(prop-2-ynyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-042)
N′-Benzoyl-4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbohydrazide (0.15 mmol) and Burgess reagent (0.30 mmol) were heated under microwave irradiation in THF (1 mL) at 60° C. for 2 minutes (Max Power 100 W). The precipitate was filtered and washed with DCM to give the title compound. δH (DMSO-d6) 9.10 (1H, s), 8.13 (2H, m), 7.70 (3H, m), 5.20 (2H, d, J=2.8), 3.57 (1H, t, J=2.8).

reactant | N′-Benzoyl-4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbohydrazide | 0.15 mmol | C(C1=CC=CC=C1)(=O)NNC(=O)C=1N=CN2C1N=NN(C2=O)CC#C | C15H11N7O3
reactant | Burgess reagent | 0.30 mmol | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 8-(5-Phenyl-1,3,4-oxadiazol-2-yl)-3-(prop-2-ynyl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | C1(=CC=CC=C1)C1=NN=C(O1)C=1N=CN2C1N=NN(C2=O)CC#C | C15H9N7O2
